US07919519B2
Methyl 1-((3-fluoro-4-(5-(phenylmethyl)furo[2,3-b]pyridin-2-yl)phenyl)methyl)-3-azetidinecarboxylate
Synthesized according to Scheme B3 and general procedure G from 5-benzyl-3-iodopyridin-2-ol (0.400 g, 1.29 mmol) and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (0.381 g, 1.54 mmol): light yellow solid. MS (ESI) m/z: Calculated: 430.2; Observed: 431.1 (M++1).

reactant | 5-benzyl-3-iodopyridin-2-ol | 1.29 mmol, 0.400 g | C(C1=CC=CC=C1)C=1C=C(C(=NC1)O)I | C12H10INO
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 1.54 mmol, 0.381 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
product | Methyl 1-((3-fluoro-4-(5-(phenylmethyl)furo[2,3-b]pyridin-2-yl)phenyl)methyl)-3-azetidinecarboxylate | FC=1C=C(C=CC1C1=CC=2C(=NC=C(C2)CC2=CC=CC=C2)O1)CN1CC(C1)C(=O)OC | C26H23FN2O3
